US06455528B1
(4) N-(4-(1-(4-(4-Fluorophenyl)piperazin-1-yl)ethyl)phenylmethyl)acetamide
By similar reaction and treatment to that in Example 1(5) using 1-(4-fluorophenyl)piperazine dihydrochloride instead of phenylpiperazine and N-(4-(1-chloroethyl)phenylmethyl)acetamide instead of N-(4-chloromethylphenylmethyl) acetamide, the title compound was obtained as white crystals, m.p.=128-130° C.

reactant | 1-(4-fluorophenyl)piperazine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)N1CCNCC1
reactant | N-(4-(1-chloroethyl)phenylmethyl)acetamide | ClC(C)C1=CC=C(C=C1)CNC(C)=O | C11H14ClNO
product | N-(4-(1-(4-(4-Fluorophenyl)piperazin-1-yl)ethyl)phenylmethyl)acetamide | FC1=CC=C(C=C1)N1CCN(CC1)C(C)C1=CC=C(C=C1)CNC(C)=O | C21H26FN3O
